US04072696
3.5 G. of 2-acetamido-4-phenylthio-1-nitrobenzene is dissolved in 35 ml. chloroform and treated at -25° C to -20° C with 2.5 g. 40% peracetic acid in 5 ml. methanol. The reaction mixture is allowed to warm slowly to 20°-25° C where it is held for four hours, then washed with sodium bisulfate solution and then with sodium bicarbonate solution. Evaporation of the solvent leaves 2-acetamido-4-phenylsulfinyl-1-nitrobenzene as a gum. This is treated with 20 ml. methanol and 10 ml. 5N aqueous sodium hydroxide at 20°-25° C for one hour. The mixture is diluted with water and the crude product filtered off. Recrystallization from benzene yields pure 2-amino-1-nitro-4-phenylsulfinylbenzene. 2.7 G. of 2-amino-1-nitro-4-phenylsulfinylbenzene is hydrogenated in 270 ml. methanol in the presence of 2.7 g. 5% palladized charcoal at one atmosphere pressure, until the theoretical uptake of hydrogen has occurred. The catalyst is removed by filtration and the filtrate concentrated to dryness. The residue is triturated with hot benzene, affording pure 1,2-diamino-4-phenylsulfinylbenzene.

reactant | 2-amino-1-nitro-4-phenylsulfinylbenzene | NC1=C(C=CC(=C1)S(=O)C1=CC=CC=C1)[N+](=O)[O-] | C12H10N2O3S
reactant | charcoal | C | CH4
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
product | 1,2-diamino-4-phenylsulfinylbenzene | NC1=C(C=C(C=C1)S(=O)C1=CC=CC=C1)N | C12H12N2OS
